Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Amoxicillin / Penicillins / Iodine-Iodine Containing / Pollen 
Extracts / Percocet
 
Attending: ___.
 
Chief Complaint:
cc:neck pain
 
Major Surgical or Invasive Procedure:
Temporal Artery Biopsy ___
 
History of Present Illness:
___ with lynch syndrome with remission from breast and 
colorectal
cancer who has experienced over four weeks of neck pain.  She 
had
a massage on ___ and the following day had pain in her neck. 
Her pain has been severe, affected her quality of life and has
recently changed location.  For the first four weeks, her pain
was primarily located in the neck and non-radiating, and with
some worsening when her head was in extension.  She was able to
carry on her ADLs but the pain persisted.  She was seen by PCP
and urgent care providers and attended four weeks of physical
therapy.  Therapies included ibuprofen with some relief of pain
though it began to cause stomach distress, Tylenol, and 
tramadol.
She limited ibuprofen use and started zantac. 

The pain worsened last week and she went to ___ where she
had MRI/MRA spine and neck that showed spondylosis.  She had
trigger point injections that helped a little bit.  Since then
the pain has changed to be primarily on the back of her
scalp/occiput region as well as pain in her jaws that has lead 
to
her eating softer foods.  She denies pain when chewing or pain 
in
her temporal region.  The pain has been knife like at times and
she used the phrase unbearable.  She was diagnosed with asthma
exacerbation during  about a week ago and treated with a burst 
of
prednisone which reduced her pain somewhat.  

In the ___ rheumatology consulted.  ESR was 140. 

ROS: 
no fevers, chills, weight loss, appetite change,  

 
Past Medical History:
lynch syndrome
breast cancer and colon cancer treated with mastectomy and 3
colon surgeries including gsubtotal colectomy and hysterectomy,
sees Dr. ___ oncology.

PMR, off prednisone for past year, sees Dr. ___ rheum

asthma, developed in her ___

anxiety

HTN (she said pre-hypertension with variable BPs)
 
Social History:
___
Family History:
not pertinent for management of chief complaint, see oncology
note from pedigree. 
 
Physical Exam:
98.4 121/70 76 18 95RA
well appearing ambulating aox3 female
she has Lidoderm patch on back of neck
some prominence of veins in temporal region
no temporal region tenderness to palpation
mild discomfort to palpation of posterior scalp in occipital and
lateral region
no focal pain to spinous process of her neck or pain to 
palpation
of her shoulders
no pain to palpation at jaw
no severe trismus
ctab
rrr nmrg
abd soft non tender no organomegaly
no peripheral edema 
no visible rashes
steady gait
calm and cooperative

Exam on discharge:
Vitals: 97.9 BP:146 / 70 HR:65R:18O2:94Ra
Gen: NAD, lying in bed in NAD
Eyes: EOMI, PERRLA, sclerae anicteric.
ENT: MMM, OP clear, no TMJ tenderness, no tenderness on 
palpation
Lymph: NO LAD
___: RRR, no MRG, full pulses, no edema  
Resp: normal effort, no accessory muscle use, lungs CTA ___.
GI: soft, NT, ND, BS+
MSK: No significant kyphosis. No palpable synovitis.
Skin: No visible rash. No jaundice.
Neuro: AAOx3. No facial droop.
Psych: Full range of affect

 
Pertinent Results:
___ 01:07PM   GLUCOSE-109* UREA N-13 CREAT-0.6 SODIUM-134* 
POTASSIUM-3.6 CHLORIDE-90* TOTAL CO2-29 ANION GAP-15
___ 01:07PM   estGFR-Using this
___ 01:07PM   CRP-146.5*
___ 01:07PM   WBC-9.0 RBC-3.60* HGB-12.6 HCT-37.7 MCV-105* 
MCH-35.0* MCHC-33.4 RDW-11.7 RDWSD-44.8
___ 01:07PM   NEUTS-65.4 ___ MONOS-8.7 EOS-1.7 
BASOS-0.3 IM ___ AbsNeut-5.86 AbsLymp-2.12 AbsMono-0.78 
AbsEos-0.15 AbsBaso-0.03
___ 01:07PM   PLT COUNT-362

IMPRESSION: 
 
No acute cardiopulmonary abnormality.
 
Brief Hospital Course:
___ with over a month of posterior neck pain after a massage who 
has since developed jaw pain, scalp tenderness and elevated CRP 
concerning for giant cell arteritis 

#Possible Giant cell arteritis
Patient with a month of neck pain with current symptoms 
suggestive of GCA. She was noted to have a significantly 
elevated CRP on admission. CXR was completed and was without 
aortic widening.  She was seen by rheumatology and started on 
prednisone 60mg daily with significant improvement in symptoms. 
Vascular surgery was consulted for temporal artery biopsy which 
was completed on ___ with results pending on discharge. The 
patient was discharged on Prednisone 60mg daily until follow up 
with her rheumatologist. She had hepatitis and HIV serologies 
which were negative. She was advised to get hepatitis B 
vaccination. Quant gold is pending on discharge. The patient was 
also discharged on Bactrim for PJP PPX, calcium and vitamin D 
for bone health and a PPI for dyspepsia. She was started on a 
baby aspirin to reduce risk of visual loss and CVAs. She was 
counseled on warning signs which would prompt a call or return 
to the hospital. 

#Asthma
Continued on Advair and albuterol PRN

#Anxiety: chronic stable
Bupropion and Lexapro were continued The patient was given a 
small quantity of trazodone for sleep disturbance in the setting 
of steroids. She was counseled on the interaction with trazodone 
and buprioprion. 

#Mild Hyponatremia: 
Asymptomatic. HCTZ was held and not resumed on discharge. Would 
consider alternative antihypertensive as outpatient. 

#Macrocytosis
Chronic for years, B12 last checked ___ and 429, has been in 
normal range since ___

Transitional issues:
- Temporal artery biopsy is pending on discharge. The patient 
was discharged on Prednisone 60mg daily with taper to be 
determined by outpatient rheumatologist
- Consider different medication for hypertension, or resumption 
of HCTZ with monitoring of sodium
- would discontinue PPI when off high dose steroids
- recommend hepatitis B vaccine

Code: Full
HCP: ___
Phone ___
Proxy form in chart:No
Filed on ___
Comments:Daughter ___ ___
___ on ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion XL (Once Daily) 150 mg PO DAILY 
2. Denosumab (Prolia) 60 mg SC ONCE 
3. TraMADol 50 mg PO BID:PRN Pain - Moderate 
4. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
5. Aspirin 81 mg PO DAILY 
6. Escitalopram Oxalate 20 mg PO DAILY 
7. Hydrochlorothiazide 25 mg PO DAILY 
8. Vitamin D 800 UNIT PO DAILY 
9. Docusate Sodium 100 mg PO BID 
10. Multivitamins W/minerals 1 TAB PO DAILY 
11. Calcium Carbonate 500 mg PO DAILY 
12. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN 

 
Discharge Medications:
1.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
2.  PredniSONE 60 mg PO 6AM 
RX *prednisone 20 mg 3 tablet(s) by mouth Q6AM Disp #*90 Tablet 
Refills:*0 
3.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim 400 mg-80 mg 1 tablet(s) by 
mouth daily Disp #*30 Tablet Refills:*0 
4.  TraZODone 25 mg PO QHS:PRN insomnia 
RX *trazodone 50 mg 0.5 (One half) tablet(s) by mouth QHS PRN 
INSOMNIA Disp #*10 Tablet Refills:*0 
5.  Calcium Carbonate 500 mg PO BID  
6.  albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN  
7.  Aspirin 81 mg PO DAILY  
8.  BuPROPion XL (Once Daily) 150 mg PO DAILY  
9.  Denosumab (Prolia) 60 mg SC ONCE  
10.  Docusate Sodium 100 mg PO BID  
11.  Escitalopram Oxalate 20 mg PO DAILY  
12.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
13.  Multivitamins W/minerals 1 TAB PO DAILY  
14.  TraMADol 50 mg PO BID:PRN Pain - Moderate  
15.  Vitamin D 800 UNIT PO DAILY  
16. HELD- Hydrochlorothiazide 25 mg PO DAILY  This medication 
was held. Do not restart Hydrochlorothiazide until you discuss 
with your primary care doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Giant Cell arteritis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms. ___,

It was a pleasure taking care of you during your admission to 
___. You were admitted with symptoms which were concerning for 
giant cell artertitis. You were seen by the rheumatology team 
who recommended starting Prednisone to treat a presumed 
diagnosis of giant cell arteritis. You had a biopsy of your 
temporal artery to confirm the diagnosis. Your rheumatologist 
Dr. ___ will communicate the results of your biopsy.

With the prednisone, you will also be started on Bactrim to 
prevent pneumocystis carinii infection and calcium and vitamin D 
for bone health. You should also take and acid reducing 
medication. Please discuss hepatitis B immunization with your 
PCP.

If you develop new or worsening symptoms, and especially vision 
changes, please call your rheumatologist or return to the 
hospital.

We wish you the best,

Your ___ Care team
 
Followup Instructions:
___